US07514449B2
To a solution of diisopropylamine (20.0 g) in tetrahydrofuran (200 ml) is added dropwise 1.6 M n-butyllithium/n-hexane solution under ice-cooling. The mixture is then stirred for 30 minutes under the same cooling conditions. The reaction mixture is cooled with dry ice-acetone, and thereto is added dropwise a solution of 4-chloropyridine (20.4 g) in tetrahydrofuran (100 ml). The mixture is then stirred for 20 minutes under the same cooling conditions. The resulting reaction solution is poured in crushed dry ice in a portion and then warmed to room temperature. The reaction solution is cooled with ice and basified by addition of sodium hydroxide, followed by concentration under reduced pressure. The resulting residue is dissolved in water and washed with dichloromethane. The aqueous layer is cooled with ice and acidified with conc. hydrochloric acid. The precipitates are collected by filtration and dried to give 4-chloronicotinic acid hydrochloride (21.4 g).

reactant | diisopropylamine | 20.0 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium n-hexane | 1.6 M | C(CCC)[Li].CCCCCC
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 4-chloropyridine | 20.4 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dry ice | C(=O)=O | CO2
product | 4-chloronicotinic acid hydrochloride | 21.4 g | Cl.ClC1=CC=NC=C1C(=O)O | InChI=1S/C6H4ClNO2.ClH/c7-5-1-2-8-3-4(5)6(9)10;/h1-3H,(H,9,10);1H
